US04542244
Followiwng a procedure described in Matsubara, et al., Chem. Abstr., 84:165069b (1976), 64.5 g of dichloroacetic acid was added dropwise over 20 minutes at 5°-6° C. to a magnetically stirred mixture of 68.0 g of (+)-alpha-pinene ([alpha]D +47.1°) and 9.0 g of water. after stirring overnight at 5°-30° C. (ice allowed to melt slowly), the mixture was extracted with 400 ml of methylene chloride. The extract was washed successively with water, aqueous potassium carbonate solution and water, dried and Claisen distilled at 4 mm to give 11.2 g of forecut, b.p. 40°-71° C. and 47.5 g of the desired (+)-alpha-terpineol, b.p. 71°-83° C. Redistillation through a micro Vigreaux column gave 40.5 g of (+)-alpha-terpineol with [alpha]D +79.3° (CHCl3), b.p. 58°-60° C. (1 mm).

reactant | dichloroacetic acid | 64.5 g | ClC(C(=O)O)Cl | C2H2Cl2O2
reactant | (+)-alpha-pinene | 68.0 g | CC1=CC[C@@H]2C[C@H]1C2(C)C | C10H16
solvent | water | 9.0 g | O | H2O
product | (+)-alpha-terpineol | 47.5 g | CC1=CC[C@@H](CC1)C(C)(C)O | C10H18O
